US04547489
Cyclo-(Arg-Lys-Asp-Val-Tyr) (1).
The crude Cyclo-[Arg(Tos)-Lys(Z)-Asp(OBzl)-Val-Tyr(Bzl)] (1 g) was cleaved with 20 ml of HF containing 2 ml anisole at 0° C. for 1 h. The peptide/resin mixture was washed with ether (3×20 ml). The free peptide was extracted with 5 HOAc/H2O (3×20 ml) and lyophilized. The crude material was applied on Sephadex SPC-25 column (60 cm×2.5 cm) previously equilibrated with 0.1M NH4OAc, pH 5. The column was eluted with the equilibration buffer at a flow rate of 85 ml/h and fractions of 13 ml were collected. After 2, the buffer was replaced with 0.2M NH4OAc, pH 6.5. Fractions 201-219 were pooled and lyophilized to give 75 mg of product; Rf, 0.3 (C); Amino acid analysis: acid hydrolysis: Arg, 103; Lys, 1.02; Asp, 1.03; Val, 0.99; Tyr, 0.92; Leucine amino peptidase: traces (<1.7) of Arg and Lys; FAB/MS: MH+ 662; HPLC: C18 -μBondapak column, 10 percent methanol/90 percent 0.02M KH2PO4, pH 3.5, 2 ml/min, 214 nm, elution time 40.67 min.

reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
product | Cyclo-(Arg-Lys-Asp-Val-Tyr) | N1[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC2=CC=C(C=C2)O)C1=O | C30H47N9O8
